US09303007B2
To a solution of 2,6-bis(2-((S)-pyrrolidin-2-yl)-1H-benzo[d]imidazol-6-yl)naphthalene (885 mg, 1.78 mmol), DMAP (10.8 mg, 0.089 mmol) and triethylamine (1.2 mL, 8.9 mmol) in DMF (30 mL) at room temp was added in one portion di-tert-butyl dicarbonate (387 mg, 1.78 mmol). The reaction mixture was stirred overnight at room temperature and purified on a BIOTAGE® (dry loaded to a 80 g silica gel cartridge and eluted with a gradient of 0 to 50% DCM in MeOH), to yield tert-butyl (2S)-2-(5-(6-(2-((2S)-2-pyrrolidinyl)-1H-benzimidazol-5-yl)-2-naphthyl)-1H-benzimidazol-2-yl)-1-pyrrolidinecarboxylate (500 mg, 0.835 mmol, 47.1% yield) as orange solid. LC-MS retention time 1.207 min; m/z 599.25 [M+H]+. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 3 min, a hold time of 1 min and an analysis time of 4 min where Solvent A was 10% acetonitrile/90% water/0.1% TFA and Solvent B was 90% acetonitrile/10% water/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (500 MHz, MeOD) δ ppm 8.27 (d, J=3.1 Hz, 1H), 8.23 (s, 1H), 8.04-8.17 (m, 4H), 8.03 (s, 1H), 7.88-7.97 (m, 3H), 7.75-7.83 (m, 2H), 5.28-5.35 (m, 1H), 5.11 (t, J=7.8 Hz, 1H), 3.75-3.83 (m, 1H), 3.60-3.72 (m, 2H), 3.51-3.59 (m, 1H), 2.60-2.74 (m, 2H), 2.40-2.50 (m, 1H), 2.21-2.38 (m, 3H), 2.10-2.20 (m, 2H), 1.52 (s, 4H), 1.25 (s, 4H).

reactant | 2,6-bis(2-((S)-pyrrolidin-2-yl)-1H-benzo[d]imidazol-6-yl)naphthalene | 1.78 mmol, 885 mg | N1[C@@H](CCC1)C1=NC2=C(N1)C=C(C=C2)C2=CC1=CC=C(C=C1C=C2)C=2C=CC1=C(NC(=N1)[C@H]1NCCC1)C2 | C32H30N6
reactant | triethylamine | 8.9 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.78 mmol, 387 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.089 mmol, 10.8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | tert-butyl (2S)-2-(5-(6-(2-((2S)-2-pyrrolidinyl)-1H-benzimidazol-5-yl)-2-naphthyl)-1H-benzimidazol-2-yl)-1-pyrrolidinecarboxylate | 0.835 mmol, 500 mg, 47.1% yield | N1[C@@H](CCC1)C1=NC2=C(N1)C=CC(=C2)C=2C=C1C=CC(=CC1=CC2)C2=CC1=C(NC(=N1)[C@H]1N(CCC1)C(=O)OC(C)(C)C)C=C2 | C37H38N6O2
